US03984465
A solution of tert.-butyl (1-oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetate (4.13 g., 0.01 mole) and p-toluenesulfonic acid (0.3 g.) in benzene (50 ml.) is refluxed for ten minutes then cooled to 25°C. affording (1-oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid which melts at 113°-114°C. after recrystallization from acetic acid.

reactant | tert.-butyl (1-oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetate | 0.01 mole, 4.13 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)OC(C)(C)C)(C)C1CCCC1 | C21H26Cl2O4
reactant | p-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | (1-oxo-2-cyclopentyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)C1CCCC1 | C17H18Cl2O4
